US09029576B2
An aqueous NaOH solution (30%, 420 g) was added at room temperature into a stirred mixture of 2,3-dimethyl pentanal (325 g, prepared as above in EXAMPLE II) and aqueous formaldehyde solution (CH2O) (30%, 722 g) while the reaction temperature was allowed to rise up to about 80° C. due to the exothermic reaction. After the addition was completed, the reaction mixture was cooled to about 40° C. The organic phases was separated and fractionally distilled to afford 2-sec-butyl-2-methyl-propane-1,3-diol (277 g). 2-sec-Butyl-2-methyl-propane-1,3-diol was reacted with 2,4-dimethyl-cyclohex-3-enecarbaldehyde to afford 5-sec-butyl-2-(2,4-dimethyl-cyclohex-3-enyl)-5-methyl-[1,3]dioxane according to previous disclosure (See, for example, U.S. Pat. No. 6,444,637).

reactant | 2-sec-Butyl-2-methyl-propane-1,3-diol | C(C)(CC)C(CO)(CO)C | C8H18O2
reactant | 2,4-dimethyl-cyclohex-3-enecarbaldehyde | CC1C(CCC(=C1)C)C=O | C9H14O
product | 5-sec-butyl-2-(2,4-dimethyl-cyclohex-3-enyl)-5-methyl-[1,3]dioxane | C(C)(CC)C1(COC(OC1)C1C(C=C(CC1)C)C)C | C17H30O2
